US05976858
Morpholinecarbonylphenylalanine (2.74 g, 9.82 mmol, prepared according to the method described in Esser, R. et.al., Arthritis & Rheumatism (1994), 0000) was dissolved in THF (50 mL) at -10° C. 4-methylmorpholine (1.08 mL, 9.82 mmol) was added, followed by isobutyl chloroformate (1.27 mL, 9.82 mmol). The mixed anhydride was stirred for 10 minutes, whereupon a solution of ethyl (S)-4-amino-6-phenyl-2-hexenoate hydrochloride from the previous step in DMF (10 mL) was added, followed by 4-methylmorpholine (1.08 mL, 9.82 mmol). The mixture was stirred for 1 hour. 1M HCl (50 mL) was added. The product was extracted with ethyl acetate (100 mL), washed with saturated aqueous NaHCO3 (50 mL), dried over MgSO4 and decolorizing charcoal (DARCO), filtered, and evaporated to dryness, giving 3.80 g (80% yield from Boc-homophenylalaninal).

reactant | Morpholinecarbonylphenylalanine | N1(CCOCC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H18N2O4
reactant | 4-methylmorpholine | 9.82 mmol, 1.08 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 9.82 mmol, 1.27 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethyl (S)-4-amino-6-phenyl-2-hexenoate hydrochloride | Cl.N[C@H](C=CC(=O)OCC)CCC1=CC=CC=C1
reactant | 4-methylmorpholine | 9.82 mmol, 1.08 mL | CN1CCOCC1 | C5H11NO
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Boc-homophenylalaninal | 80% yield | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C=O | C15H21NO3
